US05344952
C. Diethyl [4-(3-oxo-4,4,4-trifluorobutyl)phenyl] phosphate
A 10 mL one neck round bottom flask, fitted with argon inlet and magnetic stirrer was placed in an ice bath and charged with 400 mg(1.8 mM) of 1,1,1-trifluoro-4-(4-hydroxyphenyl)-2-butanone, 400 mg(2.4 mM) of diethyl chlorophosphate, 0.15 mL of dry pyridine and 5 mL of dichloromethane at 5° C. The mixture was stirred overnight at ambient temperature, filtered to remove pyridine HCl, extracted with 0.2N HCl, extracted with water, and dried (anhydrous MgSO4). Solvent removal under reduced pressure gave a crude yield of 600 mg of a brown oil. Preparative TLC using 1:1 ethyl acetate:hexane gave 600 mg(92%) of a clear oil nmr(CDCl3) - L 1.50(m,6H), 3.0(m,4H), 4.20(m,4H), 7.15(s,4H).

reactant | 1,1,1-trifluoro-4-(4-hydroxyphenyl)-2-butanone | 1.8 mM, 400 mg | FC(C(CCC1=CC=C(C=C1)O)=O)(F)F | C10H9F3O2
reactant | diethyl chlorophosphate | 2.4 mM, 400 mg | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | pyridine | 0.15 mL | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Diethyl [4-(3-oxo-4,4,4-trifluorobutyl)phenyl] phosphate | 600 mg, 92% | P(=O)(OCC)(OCC)OC1=CC=C(C=C1)CCC(C(F)(F)F)=O | C14H18F3O5P
